Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right frontal epidural hematoma.
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Mr. ___ is a ___ y/o unhelmeted male who was involved in an ATV 
accident. He did not suffer any loss of consciousness. He was 
taken to ___ where he underwent a CT of the head 
which showed a left frontal epidural hematoma and subgaleal 
hematoma. He was transferred to ___ for further evalatuion. A 
repeat non-contrast head CT was performed upon arrival and 
showed a slight enlargement of the epidural hematoma. He was 
admitted to the ICU for close monitoring.

 

 
Past Medical History:
Negative.
 
Social History:
___
Family History:
Non-contributory. 
 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: PERRLA, EOMI
Neck: Supple
Lungs: CTA bilaterally
Cardiac: RRR. S1/S2
Abd: Soft, NT, BS+
Extrem: Warm and well-perfused
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, to
mm bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift.

Sensation: Intact to light touch, propioception, pinprick and
vibration bilaterally.

Reflexes: Normoreflexic.

Coordination: normal on finger-nose-finger, rapid alternating
movements, heel to shin.

PHYSICAL EXAMINATION ON DISCHARGE:
Alert and oriented x3. Speech fluent and comprehension intact. 
Facial abrasians. Right orbital ecchymosis. 
CN II-XII grossly intact.
Motor Examination: ___ motor strength in the upper and lower 
extremities bilaterally.

 
Pertinent Results:
___ - CT Head: (Outside Hospital)
7 mm right frontal EDH, subgaleal hematoma.

___ - CT Head: 
1.  Unchanged size of the evolving right epidural hemorrhage.   
2.  Underlying fracture and soft tissue swelling of the right 
temporal bone extending into the greater wing of the right 
sphenoid and zygomatic process of the right frontal bone. 

___ - CT Head: 
1. Stable right frontal epidural hematoma.   
2. A nondisplaced fracture involving the right parietal and 
sphenoid bones, with extension into the zygomatic process of the 
right frontal bone and the lateral wall of the right orbit, is 
again demonstrated. 

___ - Pelvic X-Ray:
No acute fractures or dislocations are seen. Mild degenerative 
changes of the sacroiliac joints are seen. There is normal 
osseous mineralization.No 
radiopaque foreign bodies are present.  If there is high concern 
for 
nondisplaced fracture, CT scan is recommended. 

___ - CT Head:
1. Unchanged right epidural hematoma measuring approximately 0.9 
cm in 
thickness. 
2. Overlying right calvarial fractures also unchanged. 
3. No new intracranial hemorrhage. 

 
Brief Hospital Course:
The patient was seen in the emergency room on the day of 
admission, ___ and found to have a 7mm right frontal 
epidural hematoma on CT of the head which was performed at the 
outside hospital prior to his transfer to ___. He was also 
noted to have a subgaleal hematoma. A repeat non-contrast head 
CT was performed which showed a slight enlargement of the 
epidural hematoma. He was admitted to the ICU for close 
monitoring overnight. He was started on a 7-day course of 
Keppra. 

On ___, the patient underwent a repeat non-contrast head CT 
which showed a stable epidural hematoma. He remained 
neurologically intact and it was determined he would be 
transferred to the floor.

On ___, the patient's neurologic examination remained intact. A 
occupational therapy consult was ordered. He was evaluated by 
the ACS service who requested a pelvic x-ray which was performed 
and negative for fracture. He also underwent a repeat 
non-contrast head CT which was stable. He was cleared by the 
Acute Care Surgery service for home. He was eating, ambulating 
independently and voiding without difficulty and it was 
determined he would be discharged to home with a 7-day course of 
Keppra. He will follow-up with Dr. ___ in 4-weeks with a 
non-contrast CT of the head. 

 
Medications on Admission:
None. 
 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN Pain 
Do not take more than 4g Acetaminophen in a 24-hour period.  
2. LevETIRAcetam 500 mg PO BID 
RX *levetiracetam 500 mg 1 tablet(s) by mouth twice a day Disp 
#*14 Tablet Refills:*0
3. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain 
Hold for sedation, drowsiness or RR <12. 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 4 hours Disp #*10 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right epidural hematoma.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions
Traumatic Brain Injury

Activity:
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
•No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications:
•Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
•You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time. 
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
•You may have difficulty paying attention, concentrating, and 
remembering new information.
•Emotional and/or behavioral difficulties are common. 
•Feeling more tired, restlessness, irritability, and mood 
swings are also common.
•Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Headaches:
•Headache is one of the most common symptoms after traumatic 
brain injury. Headaches can be long-lasting. 
•Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
•Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
•There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


More Information about Brain Injuries:
•You were given information about headaches after TBI and the 
impact that TBI can have on your family.
•If you would like to read more about other topics such as: 
sleeping, driving, cognitive problems, emotional problems, 
fatigue, seizures, return to school, depression, balance, or/and 
sexuality after TBI, please ask our staff for this information 
or visit ___

When to Call Your Doctor at ___ for:
•Fever greater than 101.5 degrees Fahrenheit.
•Nausea and/or vomiting.
•Extreme sleepiness and not being able to stay awake.
•Severe headaches not relieved by pain relievers.
•Seizures.
•Any new problems with your vision or ability to speak.
•Weakness or changes in sensation in your face, arms, or leg.

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
•Sudden numbness or weakness in the face, arm, or leg.
•Sudden confusion or trouble speaking or understanding.
•Sudden trouble walking, dizziness, or loss of balance or 
coordination.
•Sudden severe headaches with no known reason.

 
Followup Instructions:
___